* Stress screen: +1% shunt, undrated +20% capacitors, slow/nominal/fast eFuse slew.
* 12.14..60 V/ms eFuse sensitivity; 60 V/ms is an assumed stress value.
* ============================================================================
* COMBINED PDB + OSIRIS Rev A -- startup, sequencing and steady state
* Battery -> PDB (A-P3-DRAFT) -> XT60 harness -> Osiris Rev A
* Engine: LTspice 26.x
* ============================================================================
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LTC4368-1.sub
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LT3010.lib
.inc models\pdb_screen17_devices.lib
.inc ..\models\U21_SCREEN.lib
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LTC4359.sub
.inc pdb\pdb_release.lib
.inc osiris\osiris_reva.lib

* CASE 1 nominal 14.8V | 2 low pack 12.0V | 3 full pack 16.8V
* CASE 4 nominal but high-impedance harness and weak battery
.step param CASE list 1 2 3 4 5 6 7 8
.step temp list 0 60
.param VPACK = table(CASE,1,12,2,16.8,3,12,4,16.8,5,12,6,16.8,7,12,8,16.8)
.param RBATT  = table(CASE, 1,20m,  2,20m,  3,20m,  4,200m)
.param RCBL   = table(CASE, 1,6m,   2,6m,   3,6m,   4,50m)

VBAT  VSRC 0 PWL(0 0 1m {VPACK})
RBATT VSRC VBIN {RBATT}

XPDB  VBIN PDBOUT PDB3V3 GP GF COMMON FAULTN ALERTN SCL SDA 0 PDB_CURRENT
+ PARAMS: RSHUNT=5.05m CDERATE=1.2 CDERATE3=1.2

* XT60 harness, PDB J3 -> Osiris J16
LCBL  PDBOUT NCBL 200n Rser=1m
RCBL  NCBL   OSIN {RCBL}

* AUXIN (J17 barrel jack) left open -- battery-only scenario.
XOS   OSIN NAUX V5 V3 V5PROT VJET 0 OSIRIS_REVA
+ PARAMS: CDERATE=1.2 SR21={table(CASE,1,12140,2,12140,3,28100,4,28100,5,44780,6,44780,7,60000,8,60000)}
RAUX  NAUX 0 1Meg

.tran 0 900m 0 20u
.options method=gear reltol=0.003

* --- Rail establishment ---------------------------------------------------
.meas TRAN VPDBOUT   AVG V(PDBOUT) FROM 400m TO 500m
.meas TRAN VOSIN     AVG V(OSIN)   FROM 400m TO 500m
.meas TRAN V5_SS     AVG V(V5)     FROM 400m TO 500m
.meas TRAN V3_SS     AVG V(V3)     FROM 400m TO 500m
.meas TRAN V5P_SS    AVG V(V5PROT) FROM 400m TO 500m
.meas TRAN VJET_SS   AVG V(VJET)   FROM 400m TO 500m
.meas TRAN V3V3_PDB  AVG V(PDB3V3) FROM 400m TO 500m

* --- Inrush and steady-state current --------------------------------------
.meas TRAN IIN_PEAK  MAX ABS(I(RBATT)) FROM 0 TO 400m
.meas TRAN IIN_SS    AVG ABS(I(RBATT)) FROM 400m TO 500m
.meas TRAN IIN_STEP  AVG ABS(I(RBATT)) FROM 700m TO 890m
.meas TRAN IIN_STEPK MAX ABS(I(RBATT)) FROM 590m TO 700m

* --- Sequencing timing ----------------------------------------------------
.meas TRAN T_PDBON   WHEN V(PDBOUT)=5    RISE=1
.meas TRAN T_OSVIN   WHEN V(OSIN)=7.91   RISE=1
.meas TRAN T_5V0     WHEN V(V5)=4.9      RISE=1
.meas TRAN T_3V3     WHEN V(V3)=3.1      RISE=1
.meas TRAN T_5VPROT  WHEN V(V5PROT)=4.9  RISE=1

* --- Harness / conduction losses -----------------------------------------
.meas TRAN VDROP_TOT AVG V(VSRC)-V(OSIN) FROM 400m TO 500m
.meas TRAN VDROP_PDB AVG V(VBIN)-V(PDBOUT) FROM 400m TO 500m
.meas TRAN VDROP_CBL AVG V(PDBOUT)-V(OSIN) FROM 400m TO 500m

* --- Protection margin ----------------------------------------------------
.meas TRAN GATE_DRV  AVG V(GF)-V(COMMON) FROM 400m TO 500m
.meas TRAN FUSE_I2T  INTEG I(RBATT)*I(RBATT) FROM 0 TO 900m
.meas TRAN IIN_LOWV MAX if(V(PDBOUT)<2,abs(I(RBATT)),0)
.meas TRAN INRUSH_I2T INTEG I(RBATT)*I(RBATT) FROM 0 TO 100m
.meas TRAN POUT_STEP AVG V(PDBOUT)*I(LCBL) FROM 700m TO 890m
.meas TRAN INP_MIN MIN V(XPDB:INA_IN_P)
.meas TRAN INN_MIN MIN V(XPDB:INA_IN_N)
.meas TRAN VBUS_MIN MIN V(XPDB:INA_VBUS)
.meas TRAN INP_MAX MAX V(XPDB:INA_IN_P)
.meas TRAN INN_MAX MAX V(XPDB:INA_IN_N)
.meas TRAN VBUS_MAX MAX V(XPDB:INA_VBUS)
.meas TRAN Q3_VDS MAX ABS(V(XPDB:VBAT_FUSED,XPDB:IDEAL_IN))
.meas TRAN Q3_VGS MAX ABS(V(XPDB:IDEAL_GATE,XPDB:IDEAL_IN))
.meas TRAN U5_IN_MIN MIN V(XPDB:IDEAL_IN,XPDB:IDEAL_VSS)
.meas TRAN U5_IN_MAX MAX V(XPDB:IDEAL_IN,XPDB:IDEAL_VSS)
.meas TRAN U5_OUT_MIN MIN V(XPDB:VBAT_FUSED,XPDB:IDEAL_VSS)
.meas TRAN U5_OUT_MAX MAX V(XPDB:VBAT_FUSED,XPDB:IDEAL_VSS)
.meas TRAN U5_GS_MIN MIN V(XPDB:IDEAL_GATE,XPDB:IDEAL_IN)
.meas TRAN U5_GS_MAX MAX V(XPDB:IDEAL_GATE,XPDB:IDEAL_IN)
.meas TRAN C11_STRESS MAX ABS(V(XPDB:VBAT_FUSED,XPDB:IDEAL_VSS))
.meas TRAN C16_STRESS MAX ABS(V(XPDB:INPUT_DAMP))
.meas TRAN INA_DIFF MAX ABS(V(XPDB:INA_IN_P,XPDB:INA_IN_N))
.save V(COMMON) V(GF) V(OSIN) V(PDB3V3) V(PDBOUT) V(V3) V(V5) V(V5PROT) V(VBIN) V(VJET) V(VSRC) V(XPDB:IDEAL_GATE) V(XPDB:IDEAL_IN) V(XPDB:IDEAL_VSS) V(XPDB:INA_IN_N) V(XPDB:INA_IN_P) V(XPDB:INA_VBUS) V(XPDB:INPUT_DAMP) V(XPDB:VBAT_FUSED) I(LCBL) I(RBATT)
.end
